US07692005B2
1-Ethyl-5-methyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 1-Ethyl-5-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 192 mg, 0.4611 mmol) and THF (4.6 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (87.9 mg, 0.46 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The crude residue was purified by flash silica gel chromatography (CHCl3:MeOH mix eluant with gradient of 1% MeOH to 15% MeOH) to afford the title compound in 16% yield (0.041 g, 0.072 mmol).

reactant | 1-Ethyl-5-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.4611 mmol, 192 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1C)CC)=O | C23H20N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.46 mmol, 87.9 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 4.6 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-5-methyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 16% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1C)CC)=O | C34H35N7O3
